US04454120
By the method of part A of this sample N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosine (2.59 g.) was condensed with N-methyl-N-(3-phenylpropyl)-D-methioninamide (1.4 g.). The product was crystallized twice from ethyl acetate, affording [N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosyl]-N-methyl-N-(3-phenylpropyl)-D-methioninamide (810 mg., m.r. 130°-131° C.).

reactant | N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosine | 2.59 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O | C18H27NO5
reactant | N-methyl-N-(3-phenylpropyl)-D-methioninamide | 1.4 g | CN(C([C@H](N)CCSC)=O)CCCC1=CC=CC=C1 | C15H24N2OS
product | [N-(tert-butyloxycarbonyl)-O-(tert-butyl)-L-tyrosyl]-N-methyl-N-(3-phenylpropyl)-D-methioninamide | 810 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@H](CCSC)C(=O)N(CCCC1=CC=CC=C1)C | C33H49N3O5S
